US09193692B2
B. 3-(4-Bromophenyl)-4H-1,2,4-triazole
Ethyl 4-bromobenzimidate hydrochloride (35.6 g, 135 mmol), formic hydrazide (16.16 g, 269 mmol) and triethylamine (75 mL, 538 mmol) were combined in a screw capped flask and heated to 85° C. for 16 h. The solution was condensed under reduced pressure to afford a solid, which was partitioned between water and ethyl acetate (3×), dried over magnesium sulfate and solvent removed under reduced pressure. The resulting solid was sonicated with 20% ethyl acetate in hexanes, filtered and dried to afford the title compound (14.6 g, 65.2 mmol, 48% yield). MS (ESI) m/z 224.1 [M]+, 226.1 [M+2]+.

reactant | Ethyl 4-bromobenzimidate hydrochloride | 135 mmol, 35.6 g | Cl.BrC1=CC=C(C(OCC)=N)C=C1
reactant | formic hydrazide | 269 mmol, 16.16 g | C(=O)NN | CH4N2O
reactant | triethylamine | 538 mmol, 75 mL | C(C)N(CC)CC | C6H15N
product | 3-(4-Bromophenyl)-4H-1,2,4-triazole | 65.2 mmol, 14.6 g, 48% yield | BrC1=CC=C(C=C1)C1=NN=CN1 | C8H6BrN3
